US08211820B2
Preparation of 2-(2,4,6-trimethylphenyl)pyridine
A THF solution of ethylmagnesium bromide (0.162 mL, 1.08 M, 0.175 mmol) was added to FeF3.3H2O (4.17 mg, 0.025 mmol), 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride (31.9 mg, 0.075 mmol) and triphenylphosphine (15.0 mg, 0.025 mmol) at 0° C. under argon atmosphere. The following process was also performed under argon atmosphere. After stirring for six hours at room temperature, a THF solution of mesitylmagnesium bromide (0.974 mL, 0.77 M, 0.75 mmol) was added to the mixture at room temperature. After removing the solvent under reduced pressure, the obtained viscous liquid was dissolved in toluene (1.0 ml), and 2-bromopyridine (79.0 mg, 0.5 mmol) was added at room temperature. The reaction was performed at 100° C. for 12 hours. After cooled to the ambient temperature, 2.0 mL of saturated sodium potassium tartrate aqueous solution was added to the reaction mixture. The water layer was extracted five times using Et2O. The total organic extract was filtrated by Florisil pad (100-200 mesh, Nacalai Tesque, Inc.). After removing the solvent under reduced pressure, the crude product was purified by silica gel chromatography (EtOAc=10 and 20% in hexane), thereby obtaining the above compound, which was a colorless liquid (0.087 g, yield=90%, purity=>99% (GC analysis)).

reactant | ethylmagnesium bromide | 0.175 mmol, 1.08 M, 0.162 mL | C(C)[Mg]Br
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride | 0.075 mmol, 31.9 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
reactant | triphenylphosphine | 0.025 mmol, 15.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | mesitylmagnesium bromide | 0.75 mmol, 0.77 M, 0.974 mL | C1(=C(C(=CC(=C1)C)C)[Mg]Br)C
reactant | 2-bromopyridine | 0.5 mmol, 79.0 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium potassium tartrate | 2.0 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2,4,6-trimethylphenyl)pyridine | yield=90% | CC1=C(C(=CC(=C1)C)C)C1=NC=CC=C1 | C14H15N
